US07612055B2
l) N-((R)-1-Cyano-3-methyl-hept-6-enyl)-acetamide
The following compounds can be obtained by a similar procedure, using 3-cyclopropyl-benzylamine, C-(5-bromo-pyridine-3-yl)methylamine, C-(5-cyclopropyl-pyridine-3-yl)-methylamine, C-(2-cyclopropyl-pyridine-4-yl)-methylamine, 6 isopropyl-2,2-dimethyl-chroman-4(R/S)-ylamine, 3-tert-butyl-benzylamine or 3-(2,2-dimethyl-propyl)-benzylamine instead of 3-isopropyl-benzylamine:

reactant | 3-cyclopropyl-benzylamine | C1(CC1)C=1C=C(CN)C=CC1 | C10H13N
reactant | C-(5-bromo-pyridine-3-yl)methylamine | BrC=1C=C(C=NC1)CN | C6H7BrN2
reactant | C-(5-cyclopropyl-pyridine-3-yl)-methylamine | C1(CC1)C=1C=C(C=NC1)CN | C9H12N2
reactant | C-(2-cyclopropyl-pyridine-4-yl)-methylamine | C1(CC1)C1=NC=CC(=C1)CN | C9H12N2
reactant | isopropyl-2,2-dimethyl-chroman-4(R/S)-ylamine | C(C)(C)NC1CC(OC2=CC=CC=C12)(C)C | C14H21NO
reactant | 3-tert-butyl-benzylamine | C(C)(C)(C)C=1C=C(CN)C=CC1 | C11H17N
reactant | 3-(2,2-dimethyl-propyl)-benzylamine | CC(CC=1C=C(CN)C=CC1)(C)C | C12H19N
product | N-((R)-1-Cyano-3-methyl-hept-6-enyl)-acetamide | C(#N)[C@@H](CC(CCC=C)C)NC(C)=O | C11H18N2O
